Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Cough, shortness of breath 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ male with PMH significant for asthma, 
dementia, likely COPD and gait disorder who was sent to ED by 
his nursing home after 2 days of worsening cough and tachypnea. 
History limited due to the fact that patient is demented and 
speaks ___. History obtained from daughter who is 
patient's HCP with help of ___ interpreter. Per reports, he 
desaturated to the low-mid ___ range on room air earlier in the 
night at his nursing home and EMS was called. He was given 
albuterol nebulizers en route with improvement to 97-98% O2 
saturation on ___ L NRB en route to ___.  

On arrival to the ED, his VS were: temp 104.2F, HR 130s, BP 
192/98, RR30 and O2 saturation level 100% NRB. In ED, he 
received 4L NS IVFs, Combivent nebulizers x 3, Solumedrol 125mg 
IV x1, Tylenol 1g x1, and IV Vancomycin and 4.5mg IV Zosyn.  
  
On arrival to the FICU, patient appeared to be anxious and 
breathing rapid shallow breaths in the high ___ range with O2 
saturations in the high ___ on 5L NC. He also displayed 
accessory muscle use and had audible wheezes on exam.  
  
ROS: Per patient's daughter he denies headaches, chest pain, 
abdominal pain, nausea, diarrhea, dysuria, hematuria. Daughter 
states he had one episode of emesis about 3 days ago and he has 
had ___ days of productive cough. In addition, patient's 
daughter denies any history of any known MIs, PEs, CVAs in Mr. 
___.  

 
Past Medical History:
-asthma  
-dementia /Alzheimers type  
-gait disorder  
-dysphagia  
 
Social History:
___
Family History:
Unable to obtain given limited ability to communicate.
 
Physical Exam:
ON ADMISSION:
Vitals -Temp:96.6F axillary, BP: 110/42 HR: 111 RR: 28 02 
sat:99% on 5L NC  

GENERAL: patient with pale, sweaty complexion, ill appearing and 
breathing rapid shallow breaths with some accessory muscle use 
noted  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. Dry MM. OP clear/upper dentures.  
NECK: No LAD. No JVD. No thyromegaly.  
CARDIAC: Rapid but regular rhythm, Normal S1/S2. No murmurs, 
rubs or gallops.  
LUNGS: Decreased breath sounds at RML and crackles over right 
base, poor air movement bilaterally. Some expiratory wheezes 
noted bilaterally in mid lung fields.  
ABDOMEN: Soft, NT, slightly distended, No HSM  
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.  
SKIN: No rashes/lesions, ecchymoses, pale skin  
NEURO: CN ___ grossly intact. Preserved sensation throughout. 
Moving all extremities but limited strength testing due to 
status. Gait assessment deferred  

ON DISCHARGE: 
Vitals stable
CV: regular, no mrg
PULM: scattered rhonci
ABD: soft, NTND
NEURO: responds to name, non-verbal.  No focal deficits
 
Pertinent Results:
DISCHARGE LABS:
CBC:  WBC-15.3* RBC-4.90 Hgb-14.4 Hct-42.6 MCV-87 MCH-29.5 
MCHC-33.9 RDW-14.2 Plt ___

CHEM 7: Glucose-155* UreaN-48* Creat-1.7* Na-140 K-3.5 Cl-102 
HCO3-24 AnGap-18
 
Brief Hospital Course:
Mr. ___ is an ___ male with PMH significant for asthma and 
dementia who presents now with imaging, labs and physical exam 
findings consistent with acute asthma exacerbation in setting of 
a RLL PNA and new sepsis presentation.  He had a complicated 
medical course and ultimately it was determined to focus on 
comfort care given the patient's end-stag dementia and chronic 
aspiration. He was discharged to hospice in stable condition.

# Goals of Care:  After a long discussion with the family and 
the palliative care service, it was determined that the family 
would like to focus on comfort given the patient's end-stage 
demetia and chronic aspiration.  Would recommend morphine prn 
for dyspnea or pain with bowel regimen and oxygen or fan as 
needed to control respiratory symptoms.  Additionally, would 
consider scopolamine for control of secretions if clinically 
indicated.  

# Sepsis/Pneumonia:  Patient presented with fevers to 104, 
respiratory rate in 30___, and tachycardic to 130s with systolic 
blood pressures in the 90's.  He was admitted to the ICU and 
treated with intravenous antibiotics and improved.  He was 
transferred to the floor.  He had 2 other episodes of acute 
respiratory worsening requiring ICU transfer and non-invasive 
ventilation.  These were thought to be secondary to aspiration 
of secretions and food.  He completed an 8 day course of 
antibiotics for hospital acquired pneumonia after the second 
acute worsening.  Family meeting and goals of care as above. 

# Chronic Aspiration:  Likely from demetia though speech/swallow 
study was essentially normal.  Given that goal of care is 
comfort, would allow patient to eat and drink if he wants, but 
he does not need to. 
# Acute Renal Failure: On presentation, patient's creatinine was 
1.4 with a peak of 2.1.  Ultimately improved with fluids to 1.7 
without further improvement. 

# Dementia:  End stage, long standing hisotry of Alzhemers.  
Goals of care as above. Patient appears somewhat confused and 
anxious on exam. Would avoid sedating medications. 

# Code Status:  DNR/DNI, confirmed with family.

# Contact: Granddaughter ___: ___ or ___.  
Daughter is at ___.
 
___ on Admission:
-Lactulose 30ml qdaily  
-MVI qdaily  
-Milk of Magnesia -30ml qdaily PRN  
-Fleet Enemas PRN  
-Robitussin DM -5ml q8h prn cough  
-ipratropium/albuterol 0.5/3 mg qid prn wheeze  
-trazodone 25mg q6h agitation/insomnia  
 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for Constipation.  
2. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
3. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours) as needed for shortness of breath 
or wheezing.  
4. Albuterol Sulfate 0.63 mg/3 mL Solution for Nebulization Sig: 
One (1) neb Inhalation every four (4) hours as needed for 
shortness of breath or wheezing.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
End-Stage Demetia
Pneumonia
Sepsis
Asthma
Dysphagia

 
Discharge Condition:
Stable.  

 
Discharge Instructions:
You were admitted on ___ with pneumonia and an infection 
in your blood.  You were initially treated in the intensive care 
unit with IV fluids and antibiotics and you improved.

Because you have end-stage dementia a family meeting was held 
and the decision was made to focus on comfort.  Therefore your 
medication regimen was changed to focus on comfort.  The 
facility you are going to is the nursing home you've been in.  
They will manage your symptoms of shortness of breath or pain 
with medications to reduce those symptoms. 

Additionally, it was determined that you aspirate your saliva 
into your lungs which causes lung damage and shortness of breath 
and may cause infection.  Unfortunately, there is no way to 
prevent this from happening.  

You were started on a medication called Clonidine which is a 
patch.  This is to control your blood pressure because very high 
blood pressure and worsen breathing symptoms. 

It was a pleasure meeting you and participating in your care.

 
Followup Instructions:
___